US07863294B2
Step 1: Methyl (2S)-2-[(tert-butoxycarbonyl)amino]-8-hydroxydecanoate (G1)
To a solution of (2S)-2-[(tert-butoxycarbonyl)amino]-8-oxodecanoic acid in anhydrous THF at 0° C. under a nitrogen atmosphere was added slowly a solution of BH3.Me2S in THF (2 M, 2 eq.). The mixture was stirred for 5 min at 0° C. and 3 hr at 55° C. The reaction was quenched with MeOH and partitioned between EtOAc and sat. aq. NaHCO3. The organic phase was dried (Na2SO4) and concentrated under reduced pressure. The obtained product was used in the next step without purification. MS (ES) C16H31NO5 requires: 317, found: 318 (M+H)+.

reactant | (2S)-2-[(tert-butoxycarbonyl)amino]-8-oxodecanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCCCCC(CC)=O | C15H27NO5
reactant | Me2S | S(C)C | C2H6S
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 2 M, 2 eq. | C1CCOC1 | C4H8O
product | Methyl (2S)-2-[(tert-butoxycarbonyl)amino]-8-hydroxydecanoate | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CCCCCC(CC)O | C16H31NO5
